US09029395B2
To a solution of 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 5) (382 mg, 0.884 mmol) and 3-(4-bromophenyl)propanoic acid (243 mg, 1.060 mmol) in toluene (6 mL) and ethanol (6 mL) were successively added tetrakis(triphenylphosphine)palladium(0) (102 mg, 0.088 mmol) and potassium carbonate (366 mg, 2.65 mmol). The resulting mixture was stirred at 80° C. for 2 h, then partitioned between water and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc (×3). The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (25 g), eluting with EtOAc in cyclohexane (10-70%). The appropriate fractions were combined and concentrated under reduced pressure to give 3-(4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)propanoic acid (209 mg, 52%) as a white solid. LCMS (Formate, 2 min), Rt=0.91 min, MH+=455.

reactant | 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C#N)C=C1)C | C24H29BN4O3
reactant | 3-(4-bromophenyl)propanoic acid | 1.060 mmol, 243 mg | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | potassium carbonate | 2.65 mmol, 366 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.088 mmol, 102 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)propanoic acid | 209 mg, 52% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CCC(=O)O)NC1=NC=C(C=C1)C#N)C | C27H26N4O3
